US05073564
A stirred solution of 38.0 grams (0.136 mole) of diethyl (4-chlorophenyl)hydroxymethylphosphonate in 250 ml of methylene chloride was cooled to 0° C., and a solution of 18.8 grams (0.158 mole) of thionyl chloride in 12 ml of methylene chloride was added via syringe. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it was stirred for 60 hours. After this time the reaction mixture was washed with two portions of aqueous 1N hydrochloric acid. The organic layer was filtered through silica gel. The silica gel was eluted with 1:1-hexane/ethyl acetate. The combined filtrates were concentrated under reduced pressure, yielding 40.5 grams of diethyl (4-chlorophenyl)chloromethylphosphonate. The nmr spectrum was consistent with the proposed structure.

reactant | diethyl (4-chlorophenyl)hydroxymethylphosphonate | 0.136 mole, 38.0 grams | ClC1=CC=C(C=C1)C(O)P(OCC)(OCC)=O | C11H16ClO4P
reactant | thionyl chloride | 0.158 mole, 18.8 grams | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | diethyl (4-chlorophenyl)chloromethylphosphonate | 40.5 grams | ClC1=CC=C(C=C1)C(Cl)P(OCC)(OCC)=O | C11H15Cl2O3P
